US06906203B1
2-Amino-3-cyano-7-ethoxy-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene
To a mixture of 5-bromoveratraldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) in ethanol (2 ml) was added piperidine (0.1 ml, 1 mmol). The mixture was stirred at room temperature for 15 min, then 3-ethoxyphenol (138 mg, 1 mmol) was added and it was stirred overnight. The solvent was evaporated and the residue was purified by chromatography on silica gel (EtOAc/Hexane, 1:2) to yield the title compound. 1H NMR (CDCl3): 6.84-6.82 (m, 2H), 6.70 (s, 1H), 6.61-6.65 (m, 1H), 6.53 (s, 1H), 4.62 (m, 3H), 4.0 (q, J=6.0, 2H), 3.82 (s, 6H), 1.4 (t, J=6.0, 3H).

reactant | 5-bromoveratraldehyde | 1 mmol, 245 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 1 mmol, 0.1 ml | N1CCCCC1 | C5H11N
reactant | 3-ethoxyphenol | 1 mmol, 138 mg | C(C)OC=1C=C(C=CC1)O | C8H10O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-Amino-3-cyano-7-ethoxy-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)OCC | C20H19BrN2O4
